US06884868B1
A solution of 8-cyclohexyl-8-methoxy-1,4-dioxaspiro[4.5]decane (1.15 g) and acetic acid (40 ml) in water was stirred at 100° C. for 6 hours. After cooling to room temperature, the reaction mixture was added to a mixture of sodium hydrogen carbonate solution and diethyl ether. The organic layer was taken, washed with sodium hydrogen carbonate solution and dried over magnesium sulfate. The magnesium sulfate was filtered off, and the filtrate was concentrated under reduced pressure to give 1-methoxy-1,1′-bicyclohexane-4-one (1.018 g).

reactant | 8-cyclohexyl-8-methoxy-1,4-dioxaspiro[4.5]decane | 1.15 g | C1(CCCCC1)C1(CCC2(OCCO2)CC1)OC | C15H26O3
reactant | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
product | 1-methoxy-1,1′-bicyclohexane-4-one | 1.018 g | COC1(CCC(CC1)=O)C1CCCCC1 | C13H22O2
